US04560692
(d) 1-[6-chloro-2-(4-methylphenyl)-4-quinolinyl]-4-piperidinecarboxamide
A mixture of 2.02 g (7 mmol) of 4,6-dichloro-2-(4-methylphenyl)quinoline, 1.6 g (12 mmol) of isonipecotamide, 5 g of phenol, and small amounts of sodium iodide and copper powder were stirred and heated at 160° for 4 hr. The reaction mixture was then diluted to 50 ml with water and made alkaline by the addition of concentrated ammonium hydroxide. The addition of ethyl acetate and ether induced the crystallization of 2.7 g of crude damp product. mp 260°-265°. The above-named compound was obtained as white needles, mp 265°-267° dec on recrystallization from ethanol.

reactant | 4,6-dichloro-2-(4-methylphenyl)quinoline | 7 mmol, 2.02 g | ClC1=CC(=NC2=CC=C(C=C12)Cl)C1=CC=C(C=C1)C | C16H11Cl2N
reactant | isonipecotamide | 12 mmol, 1.6 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | phenol | 5 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium iodide | [I-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
catalyst | copper | [Cu] | Cu
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[6-chloro-2-(4-methylphenyl)-4-quinolinyl]-4-piperidinecarboxamide | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)C)N1CCC(CC1)C(=O)N | C22H22ClN3O
